* por-vth -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/temp_por_top.spice,
* appended by sim/build_tb.py to produce tb_por_vth.spice. That one file
* already carries every sub-circuit definition the top level instantiates, so
* this DUT is the WHOLE assembled block (bias_core + temp_core +
* por_comparator + por_output_chain), with nothing idealised. Edit THIS file
* (or the schematics), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c, plus
* `dvdd_dt_v_per_s` from ../testbench/tb.json's `params` map (issue #206).
*
* WHAT THIS EXPERIMENT SUBSTANTIATES
*
* spec/target-spec.md#por-vth-rise, #por-vth-fall, #por-hysteresis --
* corner-worst-case (deterministic, not Monte Carlo) extraction of the
* release/assert threshold pair and the hysteresis, on the FULL ASSEMBLY
* rather than the idealised-VREF/IBIAS cell-level check
* sim/por-comparator-designer-check/ already ran. That record's own text
* names this exact gap: "IBIAS/VREF are idealised fixed stimuli standing in
* for bias_core ... Full ramp-rate/brownout/reset-pulse-interaction evidence
* against a real (non-idealised) startup sequence remains #14's job." This
* deck answers the threshold/hysteresis half of that with bias_core's real
* (corner-dependent, ~1.19-1.21 V per sim/temp-por-top-release/) VREF in the
* loop instead of an idealised 1.2 V source.
*
* Measured on the internal POR_RAW node (v(xdut.por_raw)), not RESETn: RESETn
* only deasserts after por_output_chain's deglitch dwell and >=1 ms one-shot
* have both elapsed (sim/por-output-chain-pulse/, sim/temp-por-top-release/
* measures 5.6-17.0 ms end to end on the assembly), so measuring the
* threshold off RESETn would fold that unrelated timing into a voltage claim.
* POR_RAW is the comparator's own decision, which is what "release/assert
* threshold" means in spec/target-spec.md section 4.1.
*
* Corner-worst-case only: design.ngspice sets sw_stat_mismatch=0, so this is
* the SYSTEMATIC/corner term. The [3sigma] mismatch share stays #15's job,
* exactly as sim/por-comparator-designer-check/ already states -- this record
* does not change that row's `conditional #15` status, only its full-assembly
* evidence.
*
* RAMP RATE: dVDD/dt CONSTANT ACROSS THE SUPPLY AXIS (issue #206). A prior
* revision of this deck traversed 2.0 V -> vdd_val -> 2.0 V in a FIXED 4 ms,
* so its dVDD/dt was itself a function of vdd_val -- 242.5 / 325 / 407.5 V/s
* at 2.97 / 3.30 / 3.63 V, a 1.68x spread -- and the supply axis of the
* 81-point grid was simultaneously a ramp-rate axis. No measurement on that
* grid could separate "this corner's threshold is different" from "this
* corner's rail moved faster while crossing it": `sim/por-vth/records/
* 20260811-073945-12473c3.md` reported `v_hys_mv` = 261.092 mV at
* `ss_-40c_3.63v` (its fastest-ramped point, 407.5 V/s), of which
* `sim/por-vth/control/results.md` (issue #187/#218, DR-021) shows only
* ~143 mV is the divider's static hysteresis -- the rest is `bias_core`'s
* VREF being displaced by the moving rail (~37 %) plus comparator/
* output-chain delay (~8 %), not hysteresis. This deck's own
* `sim/por-vth/control/rate_selection_results.md` (issue #206) reproduces
* the same ~144 mV zero-rate limit independently, at the two specific rates
* (242.5 / 121.25 V/s) this fix uses.
*
* The duration of each quasi-static segment is now DERIVED from a constant
* `dvdd_dt_v_per_s` (a manifest parameter, ../testbench/tb.json's `params`):
* `tramp = (vdd_val - 2.0) / dvdd_dt_v_per_s`. One variable per axis: the
* supply axis sweeps vdd_val only, and every corner traverses its threshold
* band at the SAME rate.
*
* RATE CHOICE: 242.5 V/s -- not a new number, the fastest-ramped record's OWN
* slowest column (its 2.97 V corner already ran the 2.0 V -> vdd_val leg at
* exactly this rate under the old fixed-4-ms scheme, so 2.97 V's reading is
* bit-for-bit unchanged by this fix). `sim/por-vth/control/
* rate_selection_results.md`'s rate ladder at the binding corner
* (`ss` / -40 C / 3.63 V) measures the
* residual displacement this choice still carries: `V_hys` = 215.660 mV
* (extracted) / 206.850 mV (schematic) at 242.5 V/s, against a 144.190 /
* 143.700 mV zero-rate limit and the historical 407.5 V/s record's
* 261.090 / 248.740 mV. Rate-matched across the whole supply window at
* 242.5 V/s, that same control shows `VPOR-uparrow` spreads 0.000 mV
* (identical at all three supplies) and `V_hys` spreads 4.280 mV, against the
* pre-fix grid's 20.64 mV / 49.710 mV -- both driven by ramp rate, not by
* supply, per that control's arm C. 243-408 V/s (the old scheme's full
* range) is also the same order as the 121 V/s primary and 484 V/s
* 4x-replica branches `sim/bias-core-startup/` validates as rate-independent
* in that context, but this deck's own control shows `bias_core`'s reference
* IS displaced by ramp rate through this exact node under this deck's own
* loading -- so that comparison bounds plausibility, it is not itself
* evidence of rate-independence here, and this fix does not repeat the
* claim.
*
* QUASI-STATICITY GUARD (issue #206, acceptance criterion 3): a claim of
* "quasi-static" that is not itself checked is exactly the failure mode this
* issue reports. After the primary rise/hold/fall cycle above, the deck
* appends a SECOND rise/hold/fall cycle at HALF the rate (`dvdd_dt_v_per_s`/2,
* i.e. 121.25 V/s at this deck's chosen rate) over the same 2.0 V ->
* vdd_val -> 2.0 V span. `../testbench/tb.json`'s
* `v_hys_rate_guard_delta_mv` check bounds how far the primary segment's
* `V_hys` may differ from the guard segment's own `V_hys` -- the same control
* ladder measures that gap at the binding corner (242.5 V/s vs. 121.25 V/s):
* 34.830 mV (extracted) / 31.310 mV (schematic), so a future stimulus edit
* that reintroduces a fixed-duration (rate-varies-with-supply) scheme, or
* otherwise makes this deck non-quasi-static again, fails that check loudly
* instead of silently re-confounding the supply axis. `rise_chatter_guard_ms`
* / `fall_chatter_guard_ms` (below) additionally confirm the guard segment's
* own crossings are found where expected, which doubles as the pre-existing
* anti-chatter guard on the primary edges (see CROSSING COUNTING below).
*
* Starting the slow segment at 2.0 V is safe for the crossing detection:
* sim/por-comparator-designer-check/ measures POR_RAW at a 2 V rail at
* 6.8e-6 to 6.7e-5 mV over the whole grid (`por_at_2v_mv`), i.e. a hard
* logic low six decades below this deck's 1.5 V crossing level, so the
* first rising crossing cannot land in the fast segment.
*
* THE RAIL STOPS AT 2.0 V, IT DOES NOT COLLAPSE TO 0 V. VPOR-downarrow,min
* is 2.22 V, so a down-ramp that stops at 2.0 V clears the ratified assert
* threshold by >=0.22 V at every corner and captures the falling crossing.
* Continuing to 0 V would add nothing to this claim -- the below-floor
* behaviour of POR_RAW is sim/por-comparator-designer-check/'s
* `por_at_0p5v`/`por_at_1v` probes, and the below-floor RESETn valid-low
* claim is sim/por-output-chain-floor/'s and sim/por-brownout/'s -- while
* making the deck several times more expensive to solve (the assembled
* block in deep collapse is where ngspice spends nearly all of its time on
* this netlist). Cheap evidence that is in scope beats expensive evidence
* that duplicates three existing records.
*
* CROSSING COUNTING: POR_RAW=1.5V now crosses FOUR times per run (primary
* rise, primary fall, guard rise, guard fall) instead of two, so the
* pre-existing anti-chatter guard -- originally "does the first crossing on
* an edge equal the LAST crossing anywhere in the trace" -- can no longer use
* `rise=last`/`fall=last`: the guard segment's own (legitimate) second rise
* and fall are always later in time than anything on the primary edges, so
* `last` would always pick the guard's crossing and the check would stop
* detecting a real double-bounce on the primary edge. Instead,
* `../testbench/tb.json` measures the TIME of the ordinal-second crossing
* (`rise=2`/`fall=2`, whatever produces it) and checks that it lands no
* earlier than 16 ms -- comfortably after the primary segment's own crossing
* window (which ends by 7.7216 ms at this deck's slowest corner, VDD=3.63 V)
* and comfortably before every corner's guard segment can start (which
* begins no earlier than 17 ms, at VDD=2.97 V, this deck's fastest-settling
* corner). A primary-edge double-bounce would put the ordinal-second
* crossing inside the primary ramp instead (well under 8 ms), failing that
* floor; `vpor_rise_guard`/`vpor_fall_guard` reuse the same ordinal-2
* crossings for their VALUE (`find v(vdd) ... rise=2`/`fall=2`), so a
* passing `rise_chatter_guard_ms`/`fall_chatter_guard_ms` is also what makes
* those two guard-segment readings trustworthy.
*
* TIMESTEP: the manifest asks for `tran 10u 55m`. On the quasi-static
* segments the rail moves proportionally to `dvdd_dt_v_per_s` per step, and
* the quantity extracted is not the step grid but the rail voltage at the
* instant POR_RAW crosses 1.5 V -- a hysteretic comparator edge that resolves
* in microseconds, so local truncation error refines the step by orders of
* magnitude across the crossing itself and `meas ... when` interpolates
* between the refined points. The ceiling therefore bounds solve cost on the
* flat holds, not the resolution of any of the four thresholds.
*
* PAD LOAD: 1 pF plus a 1 Tohm DC leak on each of PTAT and CTAT, matching
* sim/temp-por-top-release/ and sim/temp-accuracy-vt/ exactly. The resistors
* are not a model of anything physical -- they are the DC reference the two
* analogue pads need in the state this deck spends most of its time in.
* While RESETn is asserted temp_core is disabled and its outputs are high
* impedance (DR-010's disabled-consumer contract), so without them PTAT and
* CTAT are capacitively coupled floating nodes, and ngspice's local
* truncation error control collapses the timestep trying to track them: an
* early revision of these decks, identical but for these four lines, ran
* >450 s of CPU per PVT point without completing, against ~36 s for the
* comparable 30 ms transient in sim/temp-por-top-release/. 1 Tohm at a
* ~1.3 V pad is 1.3 pA, four to five orders of magnitude below the block's
* own nanoamp-scale currents, so it references the node without loading it.
*
* ONE DUT, ONE (DOUBLE) TRIANGLE WAVE -- half the circuit size of the
* two-DUT idiom sim/por-comparator-designer-check/ and sim/bias-core-startup/
* use elsewhere in this repo, chosen here because the full four-cell
* assembly is far more expensive per point than a single sub-circuit: a
* single DUT cold-starts, ramps up (VPOR-uparrow), settles, then ramps back
* down (VPOR-downarrow) at the SAME corner point, on the SAME instance, then
* repeats the up/down cycle once more at half the rate for the guard, so
* "same corner point" is exact by construction, not merely by using
* identical corner libs across separate instances or separate runs.
*
*   PRIMARY SEGMENT (dvdd_dt_v_per_s, the production rate):
*     0     -> t_a    cold start: VDD ramps 0 -> 2.0 V at 2000 V/s. Below
*                      every corner's assert threshold throughout, POR_RAW
*                      never leaves its hard low (see above).
*     t_a   -> t_b    VDD ramps 2.0 V -> vdd_val quasi-statically at
*                      dvdd_dt_v_per_s -- VPOR-uparrow, measured off
*                      v(xdut.por_raw).
*     t_b   -> t_c    held at vdd_val for 6 ms -- rail settled, reference
*                      settled. POR_RAW is the comparator's own decision and
*                      has already resolved on the up-ramp; this hold exists
*                      so both VREF samples below are taken on a settled
*                      reference and so the down-ramp starts from a
*                      genuinely static state.
*     t_c   -> t_d    VDD ramps vdd_val -> 2.0 V quasi-statically at the same
*                      rate -- VPOR-downarrow, measured off the SAME
*                      v(xdut.por_raw), at the SAME corner point as the rise
*                      above.
*     t_d   -> t_e    held at 2.0 V for 2 ms -- tail observation margin,
*                      below every corner's assert threshold.
*   GUARD SEGMENT (dvdd_dt_v_per_s / 2, half the production rate):
*     t_e   -> t_f    VDD ramps 2.0 V -> vdd_val quasi-statically at HALF the
*                      production rate -- VPOR-uparrow (guard).
*     t_f   -> t_g    held at vdd_val for 2 ms.
*     t_g   -> t_h    VDD ramps vdd_val -> 2.0 V quasi-statically at the same
*                      half rate -- VPOR-downarrow (guard).
*     t_h   -> t_i    held at 2.0 V for 2 ms -- final tail margin.
*
* V_hys = VPOR-uparrow - VPOR-downarrow follows directly from the two
* primary edges; the guard segment's own V_hys is the same subtraction on
* the guard edges, and `v_hys_rate_guard_delta_mv` differences the two.

.param t_pre=1m
.param tramp='(vdd_val-2.0)/dvdd_dt_v_per_s'
.param t_hold=6m
.param t_tail=2m
.param t_hold_guard=2m
.param tramp_guard='2*tramp'

.param t_a='t_pre'
.param t_b='t_a+tramp'
.param t_c='t_b+t_hold'
.param t_d='t_c+tramp'
.param t_e='t_d+t_tail'
.param t_f='t_e+tramp_guard'
.param t_g='t_f+t_hold_guard'
.param t_h='t_g+tramp_guard'
.param t_i='t_h+t_tail'

* vref_settle_early/late, por_raw_top and vdd_top (../testbench/tb.json's
* `analyses`) sample the primary hold at FIXED absolute times (8.0 ms /
* 10.9 ms) rather than at an offset from t_b/t_c: those `meas` lines are
* interactive commands inside the harness's `.control` block, which ngspice's
* numparam substitution does not reach (it only rewrites netlist-scope text,
* so a `{t_b+0.5m}` written there does not resolve), and a netlist-scope
* `.meas` does not work either -- ngspice-46 re-evaluates every netlist-scope
* `.measure` a second time after `.control` exits, once the active plot is
* gone, which turns each of those four into a hard "vector ... not available"
* error rather than a value. 8.0-10.9 ms is the intersection of the primary
* hold window [t_b, t_c] across all three ratified supplies at this deck's
* chosen dvdd_dt_v_per_s (2.97 V: [5.0, 11.0] ms; 3.30 V: [6.36, 12.36] ms;
* 3.63 V: [7.72, 13.72] ms -- the binding constraint at both ends), so both
* samples land inside every corner's hold regardless of vdd_val.
vsup vdd 0 PWL(0 0 {t_a} 2.0 {t_b} {vdd_val} {t_c} {vdd_val} {t_d} 2.0 {t_e} 2.0
+ {t_f} {vdd_val} {t_g} {vdd_val} {t_h} 2.0 {t_i} 2.0)
Cpp ptat 0 1p
Cpc ctat 0 1p
Rlp ptat 0 1T
Rlc ctat 0 1T
Crn resetn 0 5p
xdut vdd 0 ptat ctat resetn temp_por_top
